US05239083
4-{2-[3-[1-(4-fluorobenzhydryl)indol-5-yl]isocrotonoylamino]phenoxy}butyric acid (Compound 57)
0.6 g of compound 57 was obtained in a similar manner to those described in the Examples 1 and 2 using 0.91 g of ethyl 4-(2-aminophenoxy)butyrate and 0.79 g of 3-[1-(4-fluorobenzhydryl)indol-5-yl]isocrotonic acid obtained according to the procedures described in the Reference Examples 1-4.

reactant | ethyl 4-(2-aminophenoxy)butyrate | 0.91 g | NC1=C(OCCCC(=O)OCC)C=CC=C1 | C12H17NO3
reactant | 3-[1-(4-fluorobenzhydryl)indol-5-yl]isocrotonic acid | 0.79 g | FC1=CC=C(C(C2=CC=CC=C2)N2C=CC3=CC(=CC=C23)/C(=C/C(=O)O)/C)C=C1 | C25H20FNO2
product | 4-{2-[3-[1-(4-fluorobenzhydryl)indol-5-yl]isocrotonoylamino]phenoxy}butyric acid | FC1=CC=C(C(C2=CC=CC=C2)N2C=CC3=CC(=CC=C23)/C(=C/C(=O)NC2=C(OCCCC(=O)O)C=CC=C2)/C)C=C1 | C35H31FN2O4
